US07947689B2
2,3,4-Trimethyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine
In close analogy to the procedure described above, 2,3,4-Trimethyl-6,7-dihydrothieno[3,2-c]pyridine is reacted with sodium triacetoxyborohydride to provide the title compound.

reactant | 2,3,4-Trimethyl-6,7-dihydrothieno[3,2-c]pyridine | CC1=C(C=2C(=NCCC2S1)C)C | C10H13NS
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 2,3,4-Trimethyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine | Yield: 14% | CC1=C(C=2C(NCCC2S1)C)C | C10H15NS
